US04038396
3-Methoxy-2-methyl-6-nitropyridine (0.317 g.) in 20 ml. of methanol, was hydrogenated over 0.1 g. of 5% palladium-on-carbon catalyst. The catalyst was removed by filtration and the filtrate was concentrated to dryness to give 6-amino-3-methoxy-2-methylpyridine, which was used directly in the next step.

reactant | 3-Methoxy-2-methyl-6-nitropyridine | 0.317 g | COC=1C(=NC(=CC1)[N+](=O)[O-])C | C7H8N2O3
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 6-amino-3-methoxy-2-methylpyridine | NC1=CC=C(C(=N1)C)OC | C7H10N2O
